* Z:\mnt\design.r\spice\examples\3517.asc
L1 N003 N006 15µ
R1 IN N001 .1
C1 IN N003 4.7µ
V1 IN 0 25
D1 N002 N003 LXK2-PW14
R2 N008 0 16.9K
XU1 N005 N005 N007 N008 0 N010 N007 N007 N009 0 N007 N001 IN N004 N006 MP_01 0 LT3517
M§Q1 N002 N004 N001 N001 FDS4685
V2 N005 0 3.3
C2 N009 0 .005µ
C3 N010 0 .005µ
D2 N006 IN MBRS360
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
.lib LT3517.sub
.backanno
.end
